US07884210B2
Preparation of cyclopentylmethyl-(3,4-difluoro-phenyl)-amine-3,4-Difluoroaniline (18.5 mmol) dissolved in 50 ml of THF:MeOH (1:1) was added cyclopentanecarbaldehyde (20.4 mmol) and 3 Å molsieves (5 g) and stirred for 0.5 h at RT. Then NaBH3CN (37.1 mmol=2 eqv.) was added and the reaction mixture was stirred for 13H at room temperature before it was filtered and the filtrate was concentrated in vacuo to give crude cyclopentylmethyl-(3,4-difluoro-phenyl)-amine.

reactant | cyclopentylmethyl-(3,4-difluoro-phenyl)-amine 3,4-Difluoroaniline | 18.5 mmol | C1(CCCC1)CNC1=CC(=C(C=C1)F)F.FC=1C=C(N)C=CC1F
reactant | cyclopentanecarbaldehyde | 20.4 mmol | C1(CCCC1)C=O | C6H10O
reactant | NaBH3CN | 37.1 mmol, 2 eqv. | [BH3-]C#N.[Na+]
solvent | THF MeOH | 50 ml | C1CCOC1.CO
product | cyclopentylmethyl-(3,4-difluoro-phenyl)-amine | C1(CCCC1)CNC1=CC(=C(C=C1)F)F | C12H15F2N
